US04994485
Preparation of 2-phenylthio-3,5-dicyanothiophene, starting substance for the preparation of compound (32) according to Example I and of compound (45) according to Example II.
4.4 ml of thiophenol and 5.0 ml of triethylamine are added, while stirring, to a solution of 8.9 g of 2-ethylsulphinyl-3,5-dicyanothiophene, obtained according to Example I, in 100 ml of acetonitrile. After leaving to stand overnight, the reaction mixture is refluxed for 8 hours. After evaporating the solvent, the residue is taken up in methylene chloride and chromatographed over a 1 l dry silica gel column. The desired product is obtained in a yield of 9.07 g; melting-point 68°-71° C. Optionally, any 2-alkylsulphinyl compound may be used as the starting substance.

reactant | thiophenol | 4.4 ml | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | 2-ethylsulphinyl-3,5-dicyanothiophene | 8.9 g | C(C)S(=O)C=1SC(=CC1C#N)C#N | C8H6N2OS2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-phenylthio-3,5-dicyanothiophene | C1(=CC=CC=C1)SC=1SC(=CC1C#N)C#N | C12H6N2S2
